US04187223
3-[4-(dimethylamino)phenyl]-3-[(4-ethoxyphenyl)phenylamino]-phthalide;
3-[4-(dimethylamino)phenyl]-3-[(4-(isopropoxyphenyl)-phenylamino]phthalide; 4,5,6,7-tetrachloro-3-[4-(dimethylamino)-phenyl]-3-[(4-ethoxyphenyl)phenylamino]phthalide; 3-[4-(diethylamino)-2-methylphenyl]-3-[(4-ethoxyphenyl)phenylamino]-phthalide; 3-[4-(dimethylamino)phenyl]-3-[bis(4-octylphenyl)-amino]phthalide; 6-(dimethylamino)-3-[4-dimethylamino)phenyl]-3-[(4-ethoxyphenyl)phenylamino]phthalide; 3-[4-(dimethylamino)-phenyl]-3-(diphenylamino)phthalide; 6-(dimethylamino)-3-[4-dimethylamino)phenyl]-3-[bis(4-octylphenyl)amino]phthalide; 3-[4-(ethylbenzylamino)phenyl]-3-[(4-ethoxyphenyl)phenylamino]-phthalide and 3-[4-(diethylamino)-2-methylphenyl]-3-{bis[4-(dimethylamino)phenyl]amino}phthalide.

reactant | 4,5,6,7-tetrachloro-3-[4-(dimethylamino)-phenyl]-3-[(4-ethoxyphenyl)phenylamino]phthalide | ClC1=C2C(OC(=O)C2=C(C(=C1Cl)Cl)Cl)(N(C1=CC=CC=C1)C1=CC=C(C=C1)OCC)C1=CC=C(C=C1)N(C)C | C30H24Cl4N2O3
reactant | 3-[4-(diethylamino)-2-methylphenyl]-3-[(4-ethoxyphenyl)phenylamino]-phthalide | C(C)N(C1=CC(=C(C=C1)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=CC=C1)C1=CC=C(C=C1)OCC)C)CC | C33H34N2O3
reactant | 3-[4-(dimethylamino)phenyl]-3-[bis(4-octylphenyl)-amino]phthalide | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=C(C=C1)CCCCCCCC)C1=CC=C(C=C1)CCCCCCCC)C | C44H56N2O2
reactant | 3-[(4-ethoxyphenyl)phenylamino]phthalide | C(C)OC1=CC=C(C=C1)N(C1OC(=O)C2=CC=CC=C12)C1=CC=CC=C1 | C22H19NO3
reactant | 3-[4-(dimethylamino)-phenyl]-3-(diphenylamino)phthalide | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=CC=C1)C1=CC=CC=C1)C | C28H24N2O2
reactant | 3-[bis(4-octylphenyl)amino]phthalide | C(CCCCCCC)C1=CC=C(C=C1)N(C1OC(=O)C2=CC=CC=C12)C1=CC=C(C=C1)CCCCCCCC | C36H47NO2
reactant | 3-[4-(ethylbenzylamino)phenyl]-3-[(4-ethoxyphenyl)phenylamino]-phthalide | C(C)N(C1=CC=C(C=C1)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=CC=C1)C1=CC=C(C=C1)OCC)CC1=CC=CC=C1 | C37H34N2O3
reactant | 3-[4-(diethylamino)-2-methylphenyl]-3-{bis[4-(dimethylamino)phenyl]amino}phthalide | C(C)N(C1=CC(=C(C=C1)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C)CC | C35H40N4O2
product | 3-[4-(dimethylamino)phenyl]-3-[(4-ethoxyphenyl)phenylamino]-phthalide | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=CC=C1)C1=CC=C(C=C1)OCC)C | C30H28N2O3
